US09260412B2
Preparation of 4-amino-2-[5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazol-3-yl]pyrimidine-5-carbonitrile
146 mg of sodium methanolate (2.70 mmol, 1.0 eq) were diluted in 20 ml of methanole at room temperature under a nitrogen atmosphere. Then 1.0 g of 5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazole-3-carboximidamide hydrochloride 1:1 1-3-6 (2.70 mmol, 1.0 eq) and 329 mg of (ethoxymethylene)malononitrile (2.70 mmol, 1.0 eq) were added and the mixture was stirred at 65° C. bath temperature for 18 hours. After cooling to rt the reaction mixture was concentrated in vacuo and purified via HPLC (ACN/H2O/0.2% NH3) to give 284 mg (0.65 mmol, 24%) of analytically pure target compound.

reactant | sodium methanolate | 2.70 mmol, 146 mg, 1.0 eq | C[O-].[Na+]
reactant | 5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazole-3-carboximidamide hydrochloride | 1.0 g | Cl.C1(CC1)C1=C(C(=NN1CC1=C(C=C(C=C1F)OCC)F)C(N)=N)C
reactant | (ethoxymethylene)malononitrile | 2.70 mmol, 329 mg, 1.0 eq | C(C)OC=C(C#N)C#N | C6H6N2O
product | 4-amino-2-[5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazol-3-yl]pyrimidine-5-carbonitrile | NC1=NC(=NC=C1C#N)C1=NN(C(=C1C)C1CC1)CC1=C(C=C(C=C1F)OCC)F | C21H20F2N6O
